US07485644B2
To a stirred solution of 2-[(3E)-4-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)but-3-en-1-yl]pyrimidine (10.9 g, 23.7 mmol) in THF (200 mL) was added 50% aqueous solution of hydroxylamine (11 mL) and the reaction stirred at room temperature for 2 hours. Water (100 mL) was then added and then this was extracted with EtOAc (3×100 mL) and dried (brine, MgSO4), filtered and concentrated in vacuo to give 2-[3-(hydroxyamino)-4-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)butyl]pyrimidine as a pale yellow solid (11.1 g, 22.6 mmol, 96%).

reactant | 2-[(3E)-4-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)but-3-en-1-yl]pyrimidine | 23.7 mmol, 10.9 g | FC(COC=1C=CC(=NC1)N1CCN(CC1)S(=O)(=O)/C=C/CCC1=NC=CC=N1)(F)F | C19H22F3N5O3S
reactant | hydroxylamine | 11 mL | NO | H3NO
reactant | Water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-[3-(hydroxyamino)-4-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)butyl]pyrimidine | 22.6 mmol, 11.1 g, 96% | ONC(CCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)OCC(F)(F)F | C19H25F3N6O4S
